US07129238B2
(RS)-[2,6-Difluoro-4-(4-methoxy-phenoxy)-phenyl]-ethoxy-acetic acid (398 mg) was dissolved in DMF (15 ml). [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride [Prepared according to Ch. Lila, Ph. Gloanec, L. Cadet, Y. Hervé, J. Fournier, F. Leborgne, T. J. Verbeuren, G. De Nanteuil, Synthetic Communications 1998, 28, 23, 4419–4429] (367 mg) and 1-hydroxybenzotriazole (254 mg) were added and the mixture was cooled to 0° C. N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (254 mg) and triethylamine (1.38 ml) were added and it was stirred 1 h at 0° C. and 5.5 h at rt. The solvent was evaporated and the residue was taken up in H2O (40 ml) and CH2Cl2 (30 ml). The organic layer was separated, washed with brine and dried (MgSO4). The aqueous layers were extracted with two more portions CH2Cl2. After evaporation of the solvent CC(CH2Cl2 to CH2Cl2/MeOH 98:2) afforded 228 mg (32%) of (RS)-[4-(12-[2,6-difluoro-4-(4-methoxy-phenoxy)-phenyl]-2-ethoxy-acetylamino)-methyl)-phenyl]-imino-methyl}-carbamic acid benzyl ester. White foam. MS 602.0 ([M−H]−).

reactant | (RS)-[2,6-Difluoro-4-(4-methoxy-phenoxy)-phenyl]-ethoxy-acetic acid | 398 mg | FC1=C(C(=CC(=C1)OC1=CC=C(C=C1)OC)F)C(C(=O)O)OCC | C17H16F2O5
reactant | [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride | 367 mg | Cl.Cl.C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CN)=O
reactant | 1-hydroxybenzotriazole | 254 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 254 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.38 ml | C(C)N(CC)CC | C6H15N
product | carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N)=O | C8H9NO2
